US05932601
A mixture of 2-acetoxy-4-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]butyronitrile (2.0 g), 6 N HCl (24 ml) and dioxane (12 ml) was stirred for 4 hours under reflux. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), followed by distilling off the solvent. To the resulting oily product was added ethanolic hydrochloric acid (10%, 24 ml), followed by stirring for 1.5 hours under reflux. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), followed by distilling off the solvent. The resulting oily product was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:2, v/v), was obtained ethyl 2-hydroxy-4-(4-hydroxy-3-methoxyphenyl)butanoate (0.73 g, 60%),

reactant | 2-acetoxy-4-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]butyronitrile | 2.0 g | C(C)(=O)OC(C#N)CCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)OC | C24H24N2O5
reactant | HCl | 6 N, 24 ml | Cl | ClH
reactant | dioxane | 12 ml | O1CCOCC1 | C4H8O2
reactant | water | O | H2O
product | ethyl 2-hydroxy-4-(4-hydroxy-3-methoxyphenyl)butanoate | 0.73 g, 60% | OC(C(=O)OCC)CCC1=CC(=C(C=C1)O)OC | C13H18O5
